US05143924
A solution of 1 g of 2,2-dimethyl-3-hydroxymethyl-4-(1,2-dihydro-2-oxo-1-pyridyl)-6-nitro-3-chromene in 25 ml of methanol is hydrogenated on 0.5 g of 5% Pd-C at 20° C. and at 1 bar until hydrogenation is complete. The mixture is filtered, evaporated and 2,2-dimethyl-3-hydroxymethyl-4-(1,2-dihydro-2-oxo-1-pyridyl)-6-amino-3-chromene is obtained.

reactant | 2,2-dimethyl-3-hydroxymethyl-4-(1,2-dihydro-2-oxo-1-pyridyl)-6-nitro-3-chromene | 1 g | CC1(OC2=CC=C(C=C2C(=C1CO)N1C(C=CC=C1)=O)[N+](=O)[O-])C | C17H16N2O5
solvent | methanol | 25 ml | CO | CH4O
catalyst | Pd-C | 0.5 g | [Pd] | Pd
product | 2,2-dimethyl-3-hydroxymethyl-4-(1,2-dihydro-2-oxo-1-pyridyl)-6-amino-3-chromene | CC1(OC2=CC=C(C=C2C(=C1CO)N1C(C=CC=C1)=O)N)C | C17H18N2O3
